US06790860B2
Tert-Butyletherification: To a solution of (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester (14.8 g) in dichloromethane (140 ml) were added boron trifluoride ethyl etherate (3 ml) and isobutylene (cooled and liquefied at −30° C., 170 ml) at −30° C. The turbid reaction mixture was stirred at −20° C. for 2 h, poured onto a saturated sodium bicarbonate solution, and extracted with dichloromethane. The organic phases were washed with water, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel using EtOAc/hexane 1:4 and 1:2 as eluents to obtain (2S,4R)-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester (16.4 g) as a glassy syrup, MS: 467 (M).

reactant | (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester | 14.8 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(C[C@@H](C1)O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C22H21NO5S
reactant | boron trifluoride ethyl etherate | 3 ml | B(F)(F)F.CCOCC
reactant | isobutylene | 170 ml | CC(C)=C | C4H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester | 16.4 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(C[C@@H](C1)OC(C)(C)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H29NO5S
